US04559341
A mixture of 3.3 g (0.01 mol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(piperazin-1-yl)-quinoline-3-carboxylic acid and 2.8 g (0.01 mol) of 4-nitrophenyl 2-(pyrazol-1-yl)-ethyl carbonate in 40 ml of pyridine is stirred for 1 day at room temperature. Thereafter, it is diluted with 30 ml of water and acidified with 2N hydrochloric acid, and the precipitate is filtered off under suction and recrystallised from glycol monomethyl ether. 2.8 g (60% of theory) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-{-4-[(pyrazol-1-yl)-ethoxycarbonyl]-piperazin-1-yl}-quinoline-3-carboxylic acid of melting point 205°-208° C. are obtained.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(piperazin-1-yl)-quinoline-3-carboxylic acid | 0.01 mol, 3.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | 4-nitrophenyl 2-(pyrazol-1-yl)-ethyl carbonate | 0.01 mol, 2.8 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OCCN1N=CC=C1)=O | C12H11N3O5
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 30 ml | O | H2O
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-{-4-[(pyrazol-1-yl)-ethoxycarbonyl]-piperazin-1-yl}-quinoline-3-carboxylic acid | 2.8 g, 60% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C(=O)OCCN1N=CC=C1)F)=O)C(=O)O | C23H24FN5O5
